US05998433
c) Synthesis of 4-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylsulfonyl)phenylphenylmethanol
To a solution of 0.142 g (0.487 mmol) of 4-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylsulfonyl)benzaldehyde in 30 ml of tetrahydrofuran, phenylmagnesium bromide in tetrahydrofuran (prepared from 2.0 g of bromobenzene and 0.31 g of magnesium in 30 ml of tetrahydrofuran) was added at room temperature until the starting material disappeared on thin-layer chromatography (TLC). To the reaction mixture, aqueous ammonium chloride was added, followed by stirring and 3 extractions with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 2/1) to yield the desired product.

reactant | 4-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylsulfonyl)benzaldehyde | 0.487 mmol, 0.142 g | O1C=CC2=C1CN(CC2)S(=O)(=O)C2=CC=C(C=O)C=C2 | C14H13NO4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 30 ml, 2.0 g | O1CCCC1 | C4H8O
product | 4-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylsulfonyl)phenylphenylmethanol | O1C=CC2=C1CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C(O)C2=CC=CC=C2 | C20H19NO4S
